Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Hypoxemic/hypercarbic respiratory failure; septic shock 

 
Major Surgical or Invasive Procedure:
Intubation and mechanical ventilation
RIJ CVL placement
 
History of Present Illness:
___ yo M w/ complex PMHx significant for Crohn's disease (on 
steroids and adalimumab), CAD s/p MI, COPD, chronic back pain 
(s/p multiple surgeries, on long-term opiates), prior cardiac 
arrest, transferred from OSH for further management of severe 
hypoxemic/hypercarbic respiratory failure and septic shock 
secondary to pneumonia.

He initially presented to an OSH ___ at 
___) two days ago (___) w/ 2 days of productive 
cough, and R. chest discomfort. On presentation, he was febrile 
to 103 hypotensive to ___ (Tmax peaked 104.5).  Otherwise 
found to have BUN/Cr ___ WBC 5.2; lact 3.4 and a respiratory 
acidosis. CXR showed a large, R. perihilar PNA.   He recieved 
aggressive IVF, was started on norepi, intubated admitted to the 
ICU.

His OSH ICU course (___) was notable for notable for 
septic shock, requiring high doses of norepi.  He was 
empirically treated with vanc/zosyn/azithro (initial 
microbiologic testing showed strep pneumo and legionella urine 
antigen negative; otherwise unavailable).  Abx were later 
broadened to meropenem, levofloxacin, vancomycin.  He had a 
refractory respiratory acidosis, which did not resolve w/ 
alteration of his ventilation settings (___) and was 
ultimately treated with a bicarb drip.  Labs there were 
otherwise notable for leukopenia (WBC 2.2) and thrombocytopenia 
(47). 

En route he was maintained on norepi at 30, and neo at near 
max-doses; his HRs were up to 185 (afib)  for which he was 
treated w/ 20IV dilt (started gtt). Minimal UOP en route. For 
sedation was given a total of fentanyl 250, and midazolam.  

On arrival to the MICU he is non-responsive, deeply sedated 
although not breathing synchronously with the vent. Collateral 
history obtained from the patient's husband reveals that he had 
been hospitalized for Crohn's flare 3 weeks ago and discharged 
on a prednisone taper.  Despite prednisone, he had been having 
increased stool ___ stools daily) and had lost ~15lbs.  In 
the days prior to presentation he had been having fevers in 
association with sweats.

 
Past Medical History:
#Crohns disease
- on adalimumab, prednisone
#COPD
- home regimen does not include inhalers
- active smoker 
#CAD 
#Cardiac arrest in setting of renal failure (?hyperK)
#TIA
#Peripheral neuropathy (bilat ___
#Chronic pain
#MRSA (right shoulder)
#Significant tobacco
#APPY
#Fasciotomy RLE x 2
#Back surgery x 4
#R. shoulder surgery

 
Social History:
___
Family History:
mother died of lung cancer

 
Physical Exam:
=================
ADMISSION EXAM
=================
VS - 106/54 (MAP 66) on norepi 0.4; neo 1.5; HR 144; RR ___, 
O2 sat 93% on ___
Gen - intubated, sedated middle-aged M; intermittently breath 
stacking.  ETT w/ scant blood-tinged secretions.
Cor - tachycardic, irregularly irregular (on monitor)
Pulm - symmetric chest rise, +accessory muscle use, mechanical 
bilateral breath sounds without other adventitious sounds 
Abd - soft, hypoactive bowel sounds, scars from prior abdominal 
surgeries
Extrem - warm, no edema. Fasciotomy scars in lateral and medial 
compartments of left calf w/ corresponding skin graft sites on 
left thigh.  Right foot cooler than left with diminished DP 
pulses.

=================
DISCHARGE EXAM
=================
Expired
 
Pertinent Results:
===============
ADMISSION LABS
===============
___ 07:33PM BLOOD WBC-3.5* RBC-4.08* Hgb-12.5* Hct-38.1* 
MCV-93 MCH-30.7 MCHC-32.8 RDW-16.9* Plt Ct-16*
___ 09:25PM BLOOD Neuts-55 Bands-30* Lymphs-6* Monos-5 
Eos-0 Baso-0 ___ Metas-4* Myelos-0
___ 09:25PM BLOOD Hypochr-1+ Anisocy-1+ Poiklo-2+ 
Macrocy-1+ Microcy-NORMAL Polychr-NORMAL Ovalocy-OCCASIONAL 
Burr-2+
___ 07:33PM BLOOD ___ PTT-55.4* ___
___ 07:33PM BLOOD Glucose-162* UreaN-35* Creat-1.9* Na-150* 
K-4.3 Cl-110* HCO3-23 AnGap-21
___ 07:33PM BLOOD ALT-24 AST-121* CK(CPK)-552* AlkPhos-51 
TotBili-0.8
___ 07:33PM BLOOD CK-MB-6 cTropnT-0.02*
___ 07:33PM BLOOD Albumin-1.8* Calcium-5.4* Phos-6.8* 
Mg-2.1
___ 09:25PM BLOOD Vanco-21.5*
___ 09:25PM BLOOD Type-ART Temp-36.6 ___ Tidal 
V-420 PEEP-16 FiO2-100 pO2-64* pCO2-94* pH-7.11* calTCO2-32* 
Base XS--2 AADO2-562 REQ O2-___ -ASSIST/CON Intubat-INTUBATED
___ 07:30PM BLOOD Lactate-2.5*
___ 07:30PM BLOOD freeCa-0.84*
===============
IMAGING
===============
CT CHEST ___:  IMPRESSION:  
  
1. Extensive, confluent, bilateral airspace consolidations, most 
appreciable in the right middle and lower lobes, suggestive of 
pneumonia. 
2. Small right pleural effusion without rim. 
3. Mediastinal lymphadenopathy, likely reactive in nature. 
4. Contrast opacification of the esophagus suggesting reflux.  
Although not necessarily related to pneumonia, the possibility 
of aspiration as an 
underlying cause could also be considered in the appropriate 
setting in 
addition to community acquired pneumonia. 
5.  Emphysema. 

TTE ___: Conclusions  
Left ventricular wall thicknesses and cavity size are normal. 
Due to suboptimal technical quality, a focal wall motion 
abnormality cannot be fully excluded. Overall left ventricular 
systolic function is low normal (LVEF 50-55%). The right 
ventricular cavity is dilated with depressed free wall 
contractility. The aortic valve is not well seen. The mitral 
valve leaflets are not well seen. Trivial mitral regurgitation 
is seen. The pulmonary artery systolic pressure could not be 
determined. There is a trivial/physiologic pericardial effusion. 


IMPRESSION: Suboptimal image quality. Normal left ventricular 
cavity size with low normal global systolic function in the 
setting of marked tachycardia. Right ventricular cavity dilation 
with free wall hypkinesis. Valvular anatomy and function could 
not be assessed, but severe aortic stenosis and mitral stenosis 
do not appear to be present.   

RUQ US ___: IMPRESSION: 
1. Echogenic liver consistent with steatosis. Other forms of 
liver disease including hepatic fibrosis or cirrhosis or 
steatohepatitis cannot be excluded on the basis of this 
examination. 
2. Moderate amount of ascites and a small right pleural effusion 

3. Nonobstructing right-sided nephrolithiasis. Limited 
evaluation of the left kidney. 

===============
MICROBIOLOGY
===============
RESPIRATORY CULTURE (Final ___: 
      Commensal Respiratory Flora Absent. 
      KLEBSIELLA PNEUMONIAE.    SPARSE GROWTH. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             KLEBSIELLA PNEUMONIAE
                             |   
AMPICILLIN/SULBACTAM--   <=2 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

===============
DISCHARGE LABS
===============
n/a
 
Brief Hospital Course:
___ yo M w/ complex PMHx significant for Crohn's disease (on 
steroids and adalimumab), CAD s/p MI, COPD, chronic back pain 
(s/p multiple surgeries, on long-term opiates), prior cardiac 
arrest, transferred from OSH for management of severe 
hypoxemic/hypercarbic respiratory failure and septic shock 
secondary to multifocal Klebsiella pneumonia.

He initially presented to an OSH ___ at 
___) ___ w/ 2 days of productive cough, and R. 
chest discomfort, in setting of recent high dose steroid use for 
Crohn's flare. On presentation, he was febrile, hypotensive, and 
had severe hypoxic/hypercarbic respiratory failure. He recieved 
aggressive IVF, was started on pressors, broad spectrum 
antibiotics, intubated, and admitted to the ICU. His sputum 
cultures ultimately grew pansensitive Klebsiella pneumonia.  

He was transferred to ___. Though he was not thought to have 
ARDS due to the unilateral nature of his pneumonia, he was 
ventilated using ARDSNet strategy for lung protection. He was 
treated with neuromuscular blockade to optimize ventilator 
synchrony. Despite these measure he remained acidotic with pH 
<7.2 from ___. He required vasopressor support with 
norepinephrine, vasopressin, and phenylephrine and was given 
stress dose steroids. He developed atrial fibrillation with RVR 
and ATN in the setting of shock. Over the next few days, he 
began to improve with decreasing pressor requirements, improving 
blood gases, and decreasing ventilatory settings, however his 
renal failure continued to progress.

In discussion with his husband (HCP) ___ and sister ___, 
they stated that ___ had clearly expressed that he would never 
have wanted to be intubated, nor would he want prolonged 
critical care or renal replacement therapy. Initially, since 
these measures had been initiated prior to discussion with 
family, they elected to continue with trial of critical care. 
However, after multiple discussions, in accordance with his 
previously expressed wishes, his family elected to transition 
his care to comfort measures only. He died on ___ with his 
family at the bedside.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ropinirole 1 mg PO QPM 
2. Vitamin B Complex 1 CAP PO DAILY 
3. Fentanyl Patch 100 mcg/h TD Q72H 
4. Testosterone 4 mg Patch 1 PTCH TD DAILY 
5. QUEtiapine Fumarate 200 mg PO QHS 
6. Pregabalin 150 mg PO QID 
7. PredniSONE 40 mg PO DAILY 
8. Pantoprazole 40 mg PO Q24H 
9. Hydrocodone-Acetaminophen (5mg-325mg) 1 TAB PO Q6H:PRN pain 
10. FoLIC Acid 1 mg PO DAILY 
11. Ferrous Sulfate 325 mg PO DAILY 
12. Cyclobenzaprine 10 mg PO BID 
13. ClonazePAM 1 mg PO DAILY 
14. Vitamin D ___ UNIT PO DAILY 
15. etodolac 400 mg oral BID 
16. Amphetamine Salt Combo (dextroamphetamine-amphetamine) 20 mg 
oral TID 
17. Prostate Health Formula (saw-pygeum-nettle-pumpkn-aa#17) 
333-100-33-33 mg oral DAILY 
18. Humira (adalimumab) 40 mg/0.8 mL subcutaneous EVERY 2 WEEKS 

 
Discharge Medications:
N/A
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Multifocal Klebsiella pneumonia
Hypoxemic respiratory failure
Crohn's Disease
 
Discharge Condition:
Expired
 
Discharge Instructions:
N/A
 
Followup Instructions:
___